US08283002B2
Preparation of 3,6-dibromo-9-(tetrahydro-2H-pyran-2-yl)-9H-carbazole (Compound 1):
To a flask (1 L) under N2 at room temperature, were added 3,6-dibromocarbazole (50 g), dichloromethane (500 mL), 3,4-dihydro-2H-pyran (40 g), p-toluenesulfonic acid monohydrate (1 g). The reaction was stirred overnight. NaHCO3 (3 g) was added, and the reaction was stirred for 1 h. After filtration, the solvent in the filtrate was removed by evaporation. MeOH (1 L) was added for reflux under N2 for 2 h. Filtration when it was warm gave 37.5 g product. The MeOH (800 mL) was removed by evaporation, and solid came out. Filtration gave 12.5 g product. Both products are white, single spot on TLC, and GS-MS and 1H NMR showed they are pure product. The overall yield is 80%. Second and Third Reactions following the reaction scheme above produce compound (2) and (3), respectively, according to the scheme below:

reactant | 3,6-dibromocarbazole | 50 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | 3,4-dihydro-2H-pyran | 40 g | O1CCCC=C1 | C5H8O
reactant | NaHCO3 | 3 g | C(=O)(O)[O-].[Na+]
catalyst | p-toluenesulfonic acid monohydrate | 1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 3,6-dibromo-9-(tetrahydro-2H-pyran-2-yl)-9H-carbazole | 37.5 g | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)C1OCCCC1 | C17H15Br2NO
